datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C-:10]1[C:61](=[O:62])[O:72]CC[C:81]1=[O:82].O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[C:10]1([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[C:61](=[O:62])[O:72]CC[C:81]1=[O:82] 10=20;20,21=21,22;22,23=23"
"CC[Hg:11][CH2:10]C.COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2>>CC[Hg+:11].COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([CH2:10]C)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10,11=10,20;20,21=21,22;22,23=23"
"CCCCCC[SiH2:11][H:10].[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>CCCCCC[SiH2+:11].[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65 10,11=10,20"
"CC1(C)[O:82][C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])[O:102]1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>CC1(C)[O:82][C:71](=[O:72])[C:10]([I+:11]C2=CC=CC=C2)([CH:20]([O:21]C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]2)[C:91](=[O:92])[O:102]1 10,11=10,20;20,21=21"
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C([N+](=O)[O-])C=C2)[C:72](=[O:73])[O:83]1.[CH:20]1=[CH:21][C:22](=[O:23])[CH:30]=[CH:31][C:32]1=[O:33]>>CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)([CH:20]2[CH:21]=[C:22]([O-:23])[CH:30]=[CH:31][C:32]2=[O:33])[C:72](=[O:73])[O:83]1 10=20;20,21=21,22;22,23=23"
"C[Si](C)(C)[O:12][C:11](=[CH:10]C)[O:62][Si:63](C)(C)C.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>C[Si](C)(C)[O+:12]=[C:11]([CH:10](C)[CH2:20][C:31]12C3(C4=CC=CC=C4)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+])[O:62][Si:63](C)(C)C 10,11=10,20;12=11,12"
"C1=CC=C([P:71](C2=CC=CC=C2)([CH-:10][C:61]#[N:62])=[O:72])C=C1.C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34]>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].FC(F)(F)[S:20][CH:10]([C:61]#[N:62])[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72] 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>CC[O:34][C:32]([C:21]([CH:20]([NH+:10]1CCC[C@H]1C(N=[N+]=[N-])(C1=CC=CC=C1)C1=CC=CC=C1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CC[O:82][C:61]([CH-:10][S:71](C1=CC=CC=C1)(=[O:72])=[O:92])=[O:62].[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>CC[O:82][C:61]([CH:10]([CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:92])=[O:62] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C2=CC=CC=C2)[C:11](=[N+:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1.CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[CH:20]([C:31]3=[CH:32][CH:33]=[C:34](N(C)CC(F)(F)F)[CH:35]=[CH:36]3)[C:41]3=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]3)=[O:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1 10,11=10,20;12=11,12"
C1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N-:10]2.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>Cl[C:44]1=[CH:43][CH:42]=[C:41]([C:20]2([N:10]3[C:61]4=[C:62](C=NC=N4)[N:72]=[CH:71]3)CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1 10=20
"C1=CC=C([P:11](C2=CC=CC=C2)(C2=CC=CC=C2)=[CH:10][C:61]#[N:62])C=C1.C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1>>C1=CC=C([P+:11](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]([CH2:20][C:21]2=[C:22]([O-:23])[O:33]CCC2)[C:61]#[N:62])C=C1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23].CCCC[Sn:11](CCCC)(CCCC)[H:10]>>CC(C)[O:33][C:22](=[N:21][N:20]([H:10])[C:41](=[O:42])[O:43]C(C)C)[O-:23].CCCC[Sn+:11](CCCC)CCCC 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11](Cl)=[CH2:10].C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>C[C+:11](Cl)[CH2:10][CH:20]1[C:21]2=[C:22](C=CC=C2)[N:23](C)[C:32]2=[C:31]1C=CC=C2 10,11=10,20;20,21=21,22;22,23=23"
"C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34].C[Si:11](C)([H:10])[CH2:62][Si:63](C)(C)C>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].C[Si+:11](C)[CH2:62][Si:63](C)(C)C.FC(F)(F)[S:20][H:10] 10,11=10,20;20,21=21"
